US07776848B2
2-Benzo[b]thiophen-3-yl-ethanol
A solution of benzo[b]thiophen-3-yl-acetic acid (6.0 g, 31.2 mmol) in 40 ml of tetrahydrofuran was added dropwise at RT to a suspension of lithium alanate (1.54 g, 41 mmol) in 35 ml of tetrahydrofuran. The mixture was stirred for 60 minutes at 60° C., and then excess alanate was hydrolysed with ethanol. The mixture was suction-filtered over Kieselguhr and the solvent was removed in vacuo. The product was obtained in the form of a yellowish oil in a yield of 5.1 g (92%).

reactant | benzo[b]thiophen-3-yl-acetic acid | 31.2 mmol, 6.0 g | S1C2=C(C(=C1)CC(=O)O)C=CC=C2 | C10H8O2S
reactant | lithium | 41 mmol, 1.54 g | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2-Benzo[b]thiophen-3-yl-ethanol | S1C2=C(C(=C1)CCO)C=CC=C2 | C10H10OS
